US07468446B2
A stirred mixture of 4-bromo-2-ethoxy-1-methoxy-benzene (6.52 g, 23.7 mmol) and anhydrous THF (20 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (9.5 mL, 23.7 mmol) and stirred for 20 min. Then a mixture of 1H-indole-6-carboxylic acid methoxy-methyl-amide (2.20 g, 10.8 mmol) in anhydrous THF (25 mL) was added and stirred for 1 hour at −78° C. The mixture was quenched with isopropanol (4.9 mL, 65 mmol) and water (15 mL). The mixture was extracted with EtOAc (3×50 mL). The combined organic phases were washed with water (2×50 mL), dried over MgSO4 and concentrated to give an oil, which was purified by flash column chromatography (EtOAc, Hexane) to give (3-ethoxy-4-methoxy-phenyl)-(1H-indol-6-yl)-methanone as an oil (2.30 g). The product was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 23.7 mmol, 6.52 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllithium | 23.7 mmol, 9.5 mL | C(CCC)[Li]
reactant | 1H-indole-6-carboxylic acid methoxy-methyl-amide | 10.8 mmol, 2.20 g | CON(C(=O)C1=CC=C2C=CNC2=C1)C | C11H12N2O2
reactant | isopropanol | 65 mmol, 4.9 mL | C(C)(C)O | C3H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | (3-ethoxy-4-methoxy-phenyl)-(1H-indol-6-yl)-methanone | 2.30 g | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC=C2C=CNC2=C1 | C18H17NO3
